*
.SUBCKT 1PS74SB43 1 2
*
* The resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
R1 1 2 1.4E+06
D1 1 2 1PS74SB43
*
.MODEL 1PS74SB43 D
+(
+ IS = 4.9E-06
+ N = 1.001
+ BV = 40
+ IBV = 6E-05
+ RS = 0.108
+ CJO = 3.791E-10
+ VJ = 0.103
+ M = 0.4704
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
+)
.ENDS
*